US08309734B2
[2-(3,4-Dichloro-phenoxy)-pyridin-3-yl]-(3,4-dihydro-2H-quinolin-1-yl)-methanone
To a solution of (2-chloro-pyridin-3-yl)-(3,4-dihydro-2H-quinolin-1-yl)-methanone (50 mg, 0.18 mmol, 1.0 equiv) and 3,4-dichloro-phenol (29.9 mg, 0.18 mmol, 1.0 equiv; [CAS RN 95-77-2]) in anhydrous DMF (1 mL) was added potassium carbonate (50.7 mg, 0.37 mmol, 2.0 equiv; [CAS RN 584-08-7]), copper(I) iodide (3.5 mg, 0.018 mmol, 0.1 equiv; [CAS RN 7681-65-4]) and copper(0) nanopowder with an averaged particle size of 100 nm (3.5 mg, 0.055 mmol, 0.3 equiv; [CAS RN 7440-50-8]). The reaction mixture was heated by microwave irradiation to 200° C. for 30 min. Purification by preparative HPLC on reversed phase (Xterra® PrepMSC 18, 5 μm, 19×50 mm column equipped with a Gilson Liquid Handler 215 autosampler, two Rainin Dynamax® SD-300 pumps, a Sedex ELSD 75 lightscatter and a Dionex UVD 340S UV detector) eluting with a gradient of acetonitrile/water provided 2.2 mg (3%) of the title compound. MS (ISP): 399.2 [M+H]+.

reactant | (2-chloro-pyridin-3-yl)-(3,4-dihydro-2H-quinolin-1-yl)-methanone | 0.18 mmol, 50 mg, 1.0 equiv | ClC1=NC=CC=C1C(=O)N1CCCC2=CC=CC=C12 | C15H13ClN2O
reactant | 3,4-dichloro-phenol | 0.18 mmol, 29.9 mg, 1.0 equiv | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | potassium carbonate | 0.37 mmol, 50.7 mg, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.018 mmol, 3.5 mg, 0.1 equiv | [Cu]I
catalyst | copper(0) | [Cu] | Cu
product | [2-(3,4-Dichloro-phenoxy)-pyridin-3-yl]-(3,4-dihydro-2H-quinolin-1-yl)-methanone | 2.2 mg, 3% | ClC=1C=C(OC2=NC=CC=C2C(=O)N2CCCC3=CC=CC=C23)C=CC1Cl | C21H16Cl2N2O2
